US04380635
6-hydroxy-2-(4-hydroxyphenyl)-3-[ 4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene, hydrochloride
The acid chloride was made from 1.5 g. of 4-(2-piperidinoethoxy)benzoic acid, hydrochloride, as described in Example 1. To the acid chloride were added 30 ml. of dichloromethane, 1.35 g. of 6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophene and 5 g. of aluminum chloride. The mixture was stirred at ambient temperature for 2.5 hours, and then 0.74 g. of lithium iodide was added. The mixture was stirred for 1 hour, and then 0.68 g. of ethanethiol was added and the mixture was stirred for 30 minutes more at a temperature between 25° and 35°. The reaction was then worked up by the addition of 25 ml. of tetrahydrofuran, 5 ml. of 20% hydrochloric acid and 50 ml. of water. The mixture was stirred overnight and was filtered. The solids were washed with 45 ml. of water and then with 40 ml. of diethyl ether, and the product was vacuum dried. The yield was 2.18 g. of product, which was found by 90 mHz nmr analysis to be substantially identical to the product of Example 1.

reactant | 4-(2-piperidinoethoxy)benzoic acid, hydrochloride | Cl.N1(CCCCC1)CCOC1=CC=C(C(=O)O)C=C1
reactant | 6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophene | COC=1C=CC2=C(SC(=C2)C2=CC=C(C=C2)OC)C1 | C16H14O2S
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | lithium iodide | [I-].[Li+]
reactant | ethanethiol | C(C)S | C2H6S
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-hydroxy-2-(4-hydroxyphenyl)-3-[ 4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene, hydrochloride | Cl.OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCCCC2)=O)C2=CC=C(C=C2)O)C1 | InChI=1S/C28H27NO4S.ClH/c30-21-8-4-20(5-9-21)28-26(24-13-10-22(31)18-25(24)34-28)27(32)19-6-11-23(12-7-19)33-17-16-29-14-2-1-3-15-29;/h4-13,18,30-31H,1-3,14-17H2;1H
